US07282605B2
In a flask, there were placed 50 ml of 100 mM phosphate buffer (pH 6.0), 6 g of Novozyme CALB L (product of Novozyms) and 2 g of methyl (S)-2-allyloctanoate (60% ee) prepared in Example 31. After tight closure, the flask was shaken at 40° C. for 77 hours. To the mixture was added 0.35 ml of a 55% (w/w) aqueous solution of sulfuric acid, and the resulting mixture was extracted with two 100-ml portions of ethyl acetate. The organic phases were combined, and the product was transferred to 100 ml of a 0.3 M aqueous solution of sodium carbonate. Furthermore, 5 ml of a 55% (w/w) aqueous solution of sulfuric acid was added to that aqueous phase, followed by extraction with 50 ml of ethyl acetate. The organic phase was washed with 50 ml of water, and the solvent was then distilled off to give 1.21 g of (S)-2-allyloctanoic acid (99% ee). The organic phase remaining after the transfer of the reaction product to the 100 ml portion of the 0.3 M aqueous solution of sodium carbonate was washed with 50 ml of water, and the solvent was then distilled off to give 0.63 g of methyl (R)-2-allyloctanoate (14% ee).

reactant | methyl (S)-2-allyloctanoate | 2 g | C(C=C)[C@@H](C(=O)OC)CCCCCC | C12H22O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | phosphate | 100 mM, 50 ml, pH 6.0 | P(=O)([O-])([O-])[O-]
product | (S)-2-allyloctanoic acid | 1.21 g | C(C=C)[C@@H](C(=O)O)CCCCCC | C11H20O2
